US03968211
a. N-Cyclohexyl-p-chlorobenzamide
Cyclohexylamine (80 gm., 0.8 mole) is dissolved in 2.5 l. of benzene and treated dropwise with 70 gm. (0.4 mole) of p-chlorobenzoyl chloride in 250 ml. of benzene over 45 minutes with intermittent cooling to maintain reaction temperature between 22°-30°. After stirring an additional 15 minutes, the mixture is diluted with benzene and washed with water. A suspended solid is filtered and the filtrate concentrated to 1 l. to give a second crop; these are combined and recrystallized from methanol, 65.0 gm. (68.5%), m.p. 191°-193°.

reactant | Cyclohexylamine | 0.8 mole, 80 gm | C1(CCCCC1)N | C6H13N
reactant | p-chlorobenzoyl chloride | 0.4 mole | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | N-Cyclohexyl-p-chlorobenzamide | C1(CCCCC1)NC(C1=CC=C(C=C1)Cl)=O | C13H16ClNO
